US08232286B2
4-(1-METHYL-PIPERIDIN-4-YL)-PHENYLAMINE
4.3 g (19.5 mmol) 1-methyl-4-(4-nitro-phenyl)-piperidine are dissolved in a mixture of 60 ml of ethanol and 60 ml THF, combined with 2 g palladium/charcoal (10%) and hydrogenated at 1 bar hydrogen. Then the reaction mixture is suction filtered and the filtrate is concentrated by evaporation. Yield: 3.5 g

reactant | 1-methyl-4-(4-nitro-phenyl)-piperidine | 19.5 mmol, 4.3 g | CN1CCC(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | palladium/charcoal | 2 g | [Pd] | Pd
product | 4-(1-METHYL-PIPERIDIN-4-YL)-PHENYLAMINE | CN1CCC(CC1)C1=CC=C(C=C1)N | C12H18N2
